data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4165,4768,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:19](=[O:20])[O:21][CH3:22],water,298.15,10.707417055994693,-34.50441111249344
5101,5790,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][O+:20]=[C:21]([C:22]([CH3:23])=[O:24])[C:25](=[O:26])[O:27][CH3:28]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([C:22]([CH3:23])=[O:24])[C:25](=[O:26])[O:27][CH3:28],water,298.15,13.4609698629211,-27.620488048387656
2058,2285,[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:28](=[O:29])[O:30][CH3:31])[NH:20][C:21]3([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,13.362487051965394,-37.09727862951529
1212,1321,[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1.[NH:15]=[NH+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[NH:15][NH:16][N:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,20.464883835348488,-29.9847358526216
2333,2591,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17](=[O:18])[NH:19][CH3:20])=[N+:21]([CH3:22])[C-:23]([C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:23]([C:24](=[O:25])[NH:26][CH3:27])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[N:21]([CH3:22])[C:16]3([C:14]([NH:13][CH3:12])=[O:15])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,29.718174049760684,-40.07748861227416
2717,3017,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[N:24]#[C:25][C:26](=[O+:27][C-:28]([C:29]#[N:30])[C:31]#[N:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:29]#[N:30])([C:31]#[N:32])[O:27][C:26]2([C:25]#[N:24])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,18.48744990575365,-34.04976796136116
267,291,[CH3:11][CH-:12][N+:13]([CH3:14])=[C:15]([CH3:16])[C:17]#[N:18].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([CH3:16])([C:17]#[N:18])[N:13]([CH3:14])[CH:12]2[CH3:11],water,298.15,19.0002722166382,-27.11806781309556
2025,2248,[CH3:18][O:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26]([C:27]#[N:28])[o+:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:26]1([C:27]#[N:28])[C:24](=[O:25])[O:23][C:22]2([C:20]([O:19][CH3:18])=[O:21])[O:29]1,water,298.15,12.622356832392391,-34.98315935453799
4163,4766,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:19](=[O:20])[O:21][CH3:22],water,298.15,13.863615069151011,-34.02016958604705
2698,2997,[CH3:18][O:19][C:20](=[O:21])[C:22]([C:23]#[N:24])=[NH+:25][C-:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23]#[N:24])[NH:25][C:26]2([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,29.57720137770184,-28.487308074552857
